US06500850B2
A mixture of 5-amino-1-[2,6dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde (5.15 g) and carboxymethoxylamine hemihydrochloride (5.83 g) was stirred at 20° C. in pyridine/methanol for 17 hours. The methanol was evaporated and the residue water-washed and subjected to flash column chromatography on silica gel, eluting with acetic acid/ethyl acetate (1:9) to give 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde O-(carboxymethyl)oxime (1.44 g). Mass spectrometric analysis of the product indicated a molecular weight of 458. Compound 19.

reactant | 5-amino-1-[2,6dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde | 5.15 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C=O)S(=O)C | C12H8Cl2F3N3O2S
reactant | carboxymethoxylamine hemihydrochloride | 5.83 g | Cl.C(=O)(O)CON.C(=O)(O)CON
solvent | pyridine methanol | N1=CC=CC=C1.CO
product | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde O-(carboxymethyl)oxime | 1.44 g | C(=O)(O)CON=CC1=NN(C(=C1S(=O)C)N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C14H11Cl2F3N4O4S
